US07432288B2
3-Chloro-1-(3-methoxypropyl)-4-phenyl-1H-pyrrole-2,5-dione
A solution of 3-chloro-4-phenylfuran-2,5-dione (0.20 mmol, 42 mg) and 1-amino-3-methoxypropane (0.20 mmol, 18 mg) in glacial acetic acid (1 mL) was heated in a microwave reactor at 120° C. for two min. After cooling, the solvent was evaporated at reduced pressure. The crude product was used without purification.

reactant | 3-chloro-4-phenylfuran-2,5-dione | 0.20 mmol, 42 mg | ClC=1C(OC(C1C1=CC=CC=C1)=O)=O | C10H5ClO3
reactant | 1-amino-3-methoxypropane | 0.20 mmol, 18 mg | NCCCOC | C4H11NO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 3-Chloro-1-(3-methoxypropyl)-4-phenyl-1H-pyrrole-2,5-dione | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CCCOC)=O | C14H14ClNO3
